US07378418B2
To a THF (20 mL) solution of carbonyldiimidazole (CDI), (1.7 g, 10.5 mmol) was added 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine (0.7 g, 2.1 mmol). The resultant brown solution was stirred at RT for 15 min. After this time, the reaction solution was poured into water (50 mL). The resultant pale colored solid was collected by filtration. Water was used to rinse the solid thoroughly to afford 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (0.75 g, 100%). MS (M+H)=357; 1H NMR (DMSO-d6, 500 MHz): δ 12.86 (1H, s), 8.37 (1H, s), 7.42-7.48 (4H, m), 7.35 (2H, d, J=10.0 Hz), 7.27 (2H, d, J=10.0 Hz).

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | carbonyldiimidazole | 10.5 mmol, 1.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine | 2.1 mmol, 0.7 g | ClC1=CC=C(C=C1)C1=C(N=NC=C1C1=CC=C(C=C1)Cl)NN | C16H12Cl2N4
solvent | water | 50 mL | O | H2O
product | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.75 g, 100% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
